US05916898
A mixture of 8-aminoquinoline (14.4 g) and diethyl ethoxymethylenemalonate (26 g) in ethanol (100 ml) was heated at reflux for 18 hours. The mixture was cooled, filtered and the solid washed with ethanol. The solid so obtained was added to refluxing diphenyl ether (1000 ml), and the resulting mixture stirred at reflux for 45 minutes. The mixture was cooled to approximately 60° C. and diluted with hexane (500 ml). The mixture was cooled to ambient temperature, filtered and the solid washed with hexane to give 3-ethoxycarbonyl-4-oxo-3,4-dihydro-1,10-phenanthroline in 84% yield, mp 242-244° C.

reactant | 8-aminoquinoline | 14.4 g | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | diethyl ethoxymethylenemalonate | 26 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | diphenyl ether | 1000 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | hexane | 500 ml | CCCCCC | C6H14
product | 3-ethoxycarbonyl-4-oxo-3,4-dihydro-1,10-phenanthroline | 84% yield | C(C)OC(=O)C1C=NC2=C3N=CC=CC3=CC=C2C1=O | C15H12N2O3
